### PR TITLE
Subtraction properties for Int

### PR DESCRIPTION
**Pull request by LuuBluum**
Added some basic properties for subtraction, since nothing was really proven after the definition for Int. Namely, proved anticommutativity and distributivity over addition. Figured that it'd be a nice first project so I can figure out how all of this works.

### CODE REVIEW

**Comment by LuuBluum** [comment]
Somehow I completely missed at the top that predSuc and sucPred are already defined, and this redundantly defines them. I'll go in and fix that.

File: Cubical/Data/Int/Properties.agda [hunk 1]
```diff
@@ -134,9 +134,21 @@ m + negsuc n = m +negsuc n
...
+
+-pos : ∀ n → - (pos n) ≡ neg n
+-pos zero = refl
+-pos (suc n) = refl
+
+-neg : ∀ n → - (neg n) ≡ pos n
+-neg zero = refl
+-neg (suc n) = refl
+
+double- : ∀ z → - (- z) ≡ z
```
Comment (mortberg) [inline Cubical/Data/Int/Properties.agda:147]: Maybe this should be `-Involutive`?

File: Cubical/Data/Int/Properties.agda [hunk 2]
```diff
@@ -300,6 +316,102 @@ private
                                        (minusPlus m)
                                        (plusMinus m))
 
++inv : ∀ z → z - z ≡ pos zero
```
Comment (mortberg) [inline Cubical/Data/Int/Properties.agda:319]: Maybe `-Cancel`?

File: Cubical/Data/Int/Properties.agda [hunk 3]
```diff
@@ -300,6 +316,102 @@ private
...
+                    pos zero - pos (suc n) ∎
+pos- (suc m) zero = refl
+pos- (suc m) (suc n) = suc m ℕ- suc n                       ≡⟨ pos- m n ⟩
+                       pos m - pos n                        ≡⟨ sym (sucPred (pos m - pos n)) ⟩
+                       sucInt (predInt (pos m - pos n))     ≡⟨ cong sucInt (+predInt (pos m) (- pos n)) ⟩
+                       sucInt (pos m + predInt (- (pos n))) ≡⟨ cong sucInt (cong (pos m +_) (predInt-pos n)) ⟩
+                       sucInt (pos m + negsuc n)            ≡⟨ sucInt+negsuc n (pos m) ⟩
+                       pos (suc m) - pos (suc n) ∎
+
+-anticomm : ∀ m n → m - n ≡ - (n - m)
```
Comment (mortberg) [inline Cubical/Data/Int/Properties.agda:376]: I would use camelCase, so `-AntiComm` or `-antiComm`. I'm not sure which is best? @ecavallo

Comment (mortberg) [reply Cubical/Data/Int/Properties.agda:376]: Same for the other anticomm above

File: Cubical/Data/Int/Properties.agda [hunk 4]
```diff
@@ -300,6 +316,102 @@ private
...
+                             - (pos (suc n) + pos n₁) ≡⟨ cong -_ (+-comm (pos (suc n)) (pos n₁)) ⟩
+                             - (pos n₁ - negsuc n) ∎
+-anticomm (negsuc n) (negsuc n₁) = negsuc n - negsuc n₁        ≡⟨ +-comm (negsuc n) (pos (suc n₁)) ⟩
+                                   pos (suc n₁) + negsuc n     ≡⟨ sym (pos- (suc n₁) (suc n)) ⟩
+                                   suc n₁ ℕ- suc n             ≡⟨ ℕ-anticomm (suc n₁) (suc n) ⟩
+                                - (suc n ℕ- suc n₁)            ≡⟨ cong -_ (pos- (suc n) (suc n₁)) ⟩
+                                - (pos (suc n) - pos (suc n₁)) ≡⟨ cong -_ (+-comm (pos (suc n)) (negsuc n₁)) ⟩
+                                - (negsuc n₁ - negsuc n) ∎
+
+-dist : ∀ m n → - (m + n) ≡ (- m) + (- n)
```
Comment (mortberg) [inline Cubical/Data/Int/Properties.agda:398]: Maybe `-Dist`?

**Review by mortberg — CHANGES_REQUESTED** [review]
Looks good to me! I just had some comments about naming

File: Cubical/Data/Int/Properties.agda (hunk 4 above)
Comment (mortberg) [reply Cubical/Data/Int/Properties.agda:398]: Actually the name should also include `+` as there are two similar lemmas for multiplication

File: Cubical/Data/Int/Properties.agda (hunk 1 above)
Comment (LuuBluum) [reply Cubical/Data/Int/Properties.agda]: Makes sense, and would be more consistent down the line. Done.

File: Cubical/Data/Int/Properties.agda (hunk 3 above)
Comment (LuuBluum) [reply Cubical/Data/Int/Properties.agda]: I decided to go with `-AntiComm` so it would fit better with the above. Does make it a bit out-of-step with the naming of `+-assoc` and `+-comm`, but that was going to be an issue anyway.

File: Cubical/Data/Int/Properties.agda (hunk 4 above)
Comment (LuuBluum) [reply Cubical/Data/Int/Properties.agda]: Agreed. Went with `-Dist+`.

File: Cubical/Data/Int/Properties.agda (hunk 2 above)
Comment (LuuBluum) [reply Cubical/Data/Int/Properties.agda]: Makes sense. +inv would make more sense as part of a group constructor than it does here.

**Review by mortberg — APPROVED** [review]

**Comment by mortberg** [comment]
Great! Now we just have to figure out why Agda has stopped building the library...
